US04829069
(b) 4-[(4-Methoxy-5-methylpyridin-2-yl)methylthio]-2-methylquinazoline
The title compound(0.12 g) was prepared from 4-mercapto-2-methylquinazoline(4.48 g) and 2-chloromethyl-4-methoxy-5-methylpyridine(6.3 g).

reactant | 4-mercapto-2-methylquinazoline | 4.48 g | SC1=NC(=NC2=CC=CC=C12)C | C9H8N2S
reactant | 2-chloromethyl-4-methoxy-5-methylpyridine | 6.3 g | ClCC1=NC=C(C(=C1)OC)C | C8H10ClNO
product | 4-[(4-Methoxy-5-methylpyridin-2-yl)methylthio]-2-methylquinazoline | 0.12 g | COC1=CC(=NC=C1C)CSC1=NC(=NC2=CC=CC=C12)C | C17H17N3OS
